US09212190B2
To a solution of tert-butyl N-(4-[[(3R)-3-(carbamoylmethyl)-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(12),2(6),8,10-tetraen-12-yl]amino]cyclohexyl)carbamate (187 mg, 0.42 mmol, 1.00 equiv) in dichloromethane (5 mL) was added hydrogen chloride (12 M, 1 mL). The resulting solution was stirred for 2 h at room temperature. After evaporation, the residue was dissolved in CH3OH (10 mL) and HCHO (1.5 mL) was added. The resulting solution was stirred for 1 h at room temperature. To the above solution was added NaBH3CN (79 mg, 1.26 mmol, 3.00 equiv). The resulting solution was allowed to react, with stirring, overnight at room temperature. The reaction was then quenched by the addition of 10 mL of water. The resulting solution was extracted with 2×50 mL of dichloromethane and the organic layers combined. The crude product (100 mg) was purified by preparative HPLC under the following conditions: Column: Xbridge Prep C18, 5 μm, 19*150 mm; mobile phase, water (with 50 mL NH4CO3) and CH3CN (10.0% CH3CN up to 32.0% in 10 min, up to 95.0% in 1 min, down to 10.0% in 2 min); UV detection at 254 nm. This procedure afforded 50 mg (32%) of 2-[(3R)-12-[[4-(dimethylamino)cyclohexyl]amino]-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(12),2(6),8,10-tetraen-3-yl]acetamide as a white solid. MS (ES): m/z 374 (M+H)+. 1H NMR (300 MHz, CD3OD): δ 1.35-1.60 (m, 4H), 1.95-2.04 (m, 2H), 2.09-2.10 (m, 2H), 2.28-2.38 (m, 7H), 2.40-2.45 (m, 3H), 2.68-2.80 (m, 1H), 2.89-2.30 (m, 1H), 3.05-3.15 (m, 1H), 4.05-4.15 (m, 1H), 3.87 (dd, J=14.1, 6.3 Hz, 1H), 8.23 (s, 1H).

reactant | tert-butyl N-(4-[[(3R)-3-(carbamoylmethyl)-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(12),2(6),8,10-tetraen-12-yl]amino]cyclohexyl)carbamate | 0.42 mmol, 187 mg, 1.00 equiv | C(N)(=O)C[C@@H]1C=2C3=C(N=CN=C3SC2CC1)NC1CCC(CC1)NC(OC(C)(C)C)=O | C22H31N5O3S
reactant | hydrogen chloride | 12 M, 1 mL | Cl | ClH
reactant | NaBH3CN | 1.26 mmol, 79 mg, 3.00 equiv | [BH3-]C#N.[Na+]
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | 2-[(3R)-12-[[4-(dimethylamino)cyclohexyl]amino]-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(12),2(6),8,10-tetraen-3-yl]acetamide | 50 mg, 32% | CN(C1CCC(CC1)NC=1N=CN=C2SC=3CC[C@@H](C3C12)CC(=O)N)C | C19H27N5OS
